US08012986B2
2-(2-Chloro-pyridin-4-yl)-4-methyl-6-(6-trifluoromethyl-pyridin-3-yl)-pyrimidine
The title compound was prepared from 2-chloro-4-methyl-6-(6-trifluoromethyl-pyridin-3-yl)-pyrimidine (example A.4) (0.63 g, 2.3 mmol) and commercially available 2-chloro-pyridine-4-boronic acid (0.4 g, 2.53 mmol) according to the general procedure IIb. Obtained as a light yellow solid (0.53 g, 65%). MS (ISP) 351.1 [(M+H)+]; mp 183.5° C.

reactant | 2-chloro-4-methyl-6-(6-trifluoromethyl-pyridin-3-yl)-pyrimidine | 2.3 mmol, 0.63 g | ClC1=NC(=CC(=N1)C)C=1C=NC(=CC1)C(F)(F)F | C11H7ClF3N3
reactant | 2-chloro-pyridine-4-boronic acid | 2.53 mmol, 0.4 g | ClC1=NC=CC(=C1)B(O)O | C5H5BClNO2
product | 2-(2-Chloro-pyridin-4-yl)-4-methyl-6-(6-trifluoromethyl-pyridin-3-yl)-pyrimidine | ClC1=NC=CC(=C1)C1=NC(=CC(=N1)C)C=1C=NC(=CC1)C(F)(F)F | C16H10ClF3N4
